US08471035B1
7-Bromo-fluorene-2-carbaldehyde
To a mechanically stirred solution of commercially available 2-bromofluorene (79.1 g 90% pure, 71.19 g at 100% purity, 0.29 mol) in 350 mL dichloromethane, in a 1-liter 3-neck round-bottomed flask, cooled in a ice-salt bath, tin(IV)chloride (60 mL, 133.56 g, 0.513 mol) was added. Maintaining the temperature at −2° C., over a period of 20 minutes, dichloromethyl methyl ether (33 mL, 41.94 g, 0.365 mol) was added dropwise, stirred near 0 to −1° C. for 1.5 hours, and then allowed to warm to room temperature over a period of 3 hours. The mixture was poured into crushed ice, and methylene chloride was allowed to evaporate. The product slurry was then filtered and washed with water. The dry crude product (mixture of two aldehydes) weighed 87.9 g, m.p. 138-144° C. This was stirred with 750 mL of 10% toluene-heptane at reflux for 2 hours, cooled and filtered at room temperature, 73.5 g, m.p. 161-170° C. This was dissolved in 400 mL hot toluene (hazy solution; tin salts might be still present) diluted with 300 mL heptanes, and the slurry was kept at reflux for 3 hours, cooled and collected at room temperature, 59.0 g, m.p. 176-179° C. A recrystallization by dissolution in toluene (600 mL), clarification while hot, and dilution with heptanes (300 mL) delivered 50 g of pure 7-bromo-9H-fluorene-2-carbaldehyde, m.p. 177-180° C. The yield is 57 or 63% based on assumed purity of 100% or 90% for the sample of 2-bromofluorene used. Mass spec: m/z 272, 274 (M+). Anal Calcd for C14H9BrO: C, 61.57%; H, 3.32%; Br, 29.26%. Found: C, 61.53%; H, 3.44%; Br, 29.22%. 1H NMR (CDCl3), δ ppm: 3.94 (s, 2H), 7.53-7.56 (dd, 1H), 7.68-7.72 (m, 2H), 7.85-7.91 (m, 2H), 8.03 (s, 1H), and 10.04 (s, 1H). 13C NMR: 36.57 (1 sp3C), 120.19, 122.23, 122.46, 125.82, 128.55, 129.81, 130.40, 135.32, 139.21, 143.28, 146.45, 146.72, and 191.90 (13 sp2C).

reactant | 2-bromofluorene | 0.29 mol, 79.1 g | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
reactant | tin(IV)chloride | 0.513 mol, 60 mL, 133.56 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | dichloromethyl methyl ether | 0.365 mol, 33 mL, 41.94 g | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Bromo-fluorene-2-carbaldehyde | BrC1=CC=C2C=3C=CC(=CC3CC2=C1)C=O | C14H9BrO
